US04007179
(2) 2-[4-(2-Carboxybutyl)phenyl]propionic acid (II)
To a mixture of 14g. of potassium hydroxide, 100 ml. of water and 10 ml. of ethanol was added 14g. of ethyl 2-[4-(2,2-diethoxycarbonylbutyl)phenyl]propionate and the mixture was refluxed for 6 hours. The reaction mixture was treated with the same procedure as in Example 1 (2) to give 11.1g. of a pale yellow oil. The oil was heated at 160° - 170° C. for 3 hours and subjected to vacuum distillation to give 7.2g. of the desired product boiling at 230° C./0.05 mmHg. as a colorless oil.

reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | ethyl 2-[4-(2,2-diethoxycarbonylbutyl)phenyl]propionate | C(C)OC(=O)C(CC1=CC=C(C=C1)C(C(=O)OCC)C)(CC)C(=O)OCC | C21H30O6
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(2-Carboxybutyl)phenyl]propionic acid | C(=O)(O)C(CC1=CC=C(C=C1)C(C(=O)O)C)CC | C14H18O4
